US06071903
Ethyl 2-morpholinobenzoate prepared in the manner described in Tetrahedron, 53:7557, (1997) was refluxed with 10N NaOH in tetrahydrofuran-ethanol (8:2) for 1.5 hrs to give 2-morpholinobenzoic acid, mp 156-157° C. A 1.8 g, sample of this compound in 5 ml of CH2Cl2 (chilled) was added to a solution of 7.9 ml of oxalyl chloride in CH2Cl2 (2M) followed by the addition of 0.058 ml of N,N-dimethylformanide. The solution was stirred at room temperature for 6 hrs and the solvent removed. Toluene was added (2 times) and removed to give 2-(4-morpholino)benzoyl chloride as a yellow solid.

reactant | Ethyl 2-morpholinobenzoate | O1CCN(CC1)C1=C(C(=O)OCC)C=CC=C1 | C13H17NO3
reactant | NaOH | 10N | [OH-].[Na+]
solvent | tetrahydrofuran-ethanol | O1C(CCC1)CCO | C6H12O2
product | 2-morpholinobenzoic acid | O1CCN(CC1)C1=C(C(=O)O)C=CC=C1 | C11H13NO3
